US07842685B2
Synthesis of N-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)-N-(methylsulfonyl)methanesulfonamide
To 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzenamine (34 mg, 0.094 mmol) was added DCM (0.9 mL), triethylamine (26 μl, 0.188 mmol), and methanesulfonyl chloride (11 μl, 0.141 mmol) before it was stirred at ambient T for 1 h. The reaction mixture was diluted with 100 mL of DCM, added to a separatory funnel, partitioned with 5 N NaOH (aqueous), washed 3 times with 75 mL of 5 N NaOH (aqueous), separated, dried over sodium sulfate, and concentrated via rotovap to the title compound. MS (ESI) m/z: Calculated: 517.1; Observed: 518.0 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzenamine | 0.094 mmol, 34 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)N | C21H16FN3S
reactant | triethylamine | 0.188 mmol, 26 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.141 mmol, 11 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.9 mL | C(Cl)Cl | CH2Cl2
product | N-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)-N-(methylsulfonyl)methanesulfonamide | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)N(S(=O)(=O)C)S(=O)(=O)C | C23H20FN3O4S3
